US05591762
a) 4'-[(2-Ethoxy-4-methyl-6-(1-methyl-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl
To a solution of 570 mg (1.86 mMol) of 2-ethoxy-4-methyl-6-(1-methyl-benzimidazol-2-yl)-benzimidazole in 20 ml of dimethylsulphoxide are added 224 mg (2.0 mMol) of potassium tert.butoxide and the mixture is stirred for 15 minutes at ambient temperature. Then 1.11 g (2.0 mMol) of 4'-bromomethyl-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl are added and the mixture is stirred for a further 3 hours at ambient temperature. Then the mixture is stirred into about 50 ml of saturated sodium chloride solution, the crude product precipitated is suction filtered and purified by column chromatography (100 g silica gel; eluant: ethyl acetate/petroleum ether=4:1).

reactant | 2-ethoxy-4-methyl-6-(1-methyl-benzimidazol-2-yl)-benzimidazole | 1.86 mMol, 570 mg | C(C)OC=1NC2=C(N1)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C18H18N4O
reactant | potassium tert.butoxide | 2.0 mMol, 224 mg | CC(C)([O-])C.[K+]
reactant | 4'-bromomethyl-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl | 2.0 mMol, 1.11 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | sodium chloride | about 50 ml | [Cl-].[Na+]
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 4'-[(2-Ethoxy-4-methyl-6-(1-methyl-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C51H42N8O
